US09102674B2
Step C: tert-Butyl 7-((3-chlorobenzyl)oxy)-3-(2-ethoxy-2-oxoethyl)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate.
To a solution of tert-butyl 7-((3-chlorobenzyl)oxy)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate (34 g, 0.09 mol) in THF (50.09 mL) was added a solution of lithium bis(trimethylsilyl)amide (1.06 M in THF, 99.24 mL, 0.11 mol) at −78° C. The reaction was stirred at that temperature for 30 minutes after which ethyl bromoacetate (9.70 mL, 0.09 mol) was added. The reaction was allowed to warm to ambient temperature, stirred overnight and quenched into water (250 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic layers were washed with brine and dried over MgSO4. The organics were concentrated under reduced pressure to afford a yellow-brown oil and carried on crude to the next step. 1H NMR (400 MHz, CDCl3) δ 7.35 (s, 1H), 7.27-7.22 (m, 3H), 7.02 (d, J=8.4 Hz, 1H), 6.59 (dd, J=8.3, 2.5 Hz, 1H), 6.49 (d, J=2.4 Hz, 1H), 4.95 (s, 2H), 4.12 (q, J=7.2 Hz, 2H), 3.06-2.91 (m, 1H), 2.87-2.70 (m, 2H), 2.60 (d, J=7.5 Hz, 1H), 2.37 (d, J=8.9 Hz, 1H), 1.54-1.44 (m, 9H), 1.26-1.19 (m, 3H). [M+H]=374.2.

reactant | tert-butyl 7-((3-chlorobenzyl)oxy)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 0.09 mol, 34 g | ClC=1C=C(COC2=CC=C3CCC(N(C3=C2)C(=O)OC(C)(C)C)=O)C=CC1 | C21H22ClNO4
reactant | lithium bis(trimethylsilyl)amide | 0.11 mol, 1.06 M, 99.24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl bromoacetate | 0.09 mol, 9.70 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 50.09 mL | C1CCOC1 | C4H8O
product | tert-Butyl 7-((3-chlorobenzyl)oxy)-3-(2-ethoxy-2-oxoethyl)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | ClC=1C=C(COC2=CC=C3CC(C(N(C3=C2)C(=O)OC(C)(C)C)=O)CC(=O)OCC)C=CC1 | C25H28ClNO6
